US05486512
To a solution of 1 g of 1,3-dichloro-7,8,9,10-tetrahydroazepino[2,1-b]quinazolin-12(6H)-one in 30 mL of hot triethylsilane was added 5 m of trifluoroacetic acid and the mixture was stirred at 100° C.-110° C. under nitrogen. More triethylsilane and trifluoroacetic acid were added until the reaction was substantially complete as evidenced by TLC (basified aliquot extracted into CHCl3). Then all volatiles were removed in vacuo and the residue was basified, extracted into chloroform, and chromatographed using 20:1 chloroform:methanol on a silica gel column. Concentration of the corresponding fractions provided the desired 1,3-dichloro-6,7,8,9,10,12-hexahydroazepino[2,1-b]quinazolin-12-ol as a greyish-white solid.

reactant | 1,3-dichloro-7,8,9,10-tetrahydroazepino[2,1-b]quinazolin-12(6H)-one | 1 g | ClC1=C2C(N3C(=NC2=CC(=C1)Cl)CCCCC3)=O | C13H12Cl2N2O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | triethylsilane | 30 mL | C(C)[SiH](CC)CC | C6H16Si
product | 1,3-dichloro-6,7,8,9,10,12-hexahydroazepino[2,1-b]quinazolin-12-ol | ClC1=C2C(N3C(=NC2=CC(=C1)Cl)CCCCC3)O | C13H14Cl2N2O
